US09034899B2
To an ice-cold solution of 4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate (1.0 g, 2.3 mmol) and N1,N1,N8,N8-tetramethylnaphthalene-1,8-diamine (493 mg, 2.3 mmol) in 1,2-dichloroethane (25 mL) was added 1-chlorethyl chloroformate (0.75 mL, 6.9 mmol) drop wise. The mixture was heated to reflux for 1 hour. The mixture was cooled to room temperature, concentrated, and filtered through a pad of silica gel (1:1:1 hexanes/ethyl acetate/dichloromethane). The filtrate was concentrated, the residue dissolved in methanol (50 mL), and then heated to reflux for 1 hour. The mixture was cooled, concentrated, neutralized with aqueous saturated sodium bicarbonate and ethyl acetate, and then purified by column chromatography (hexanes to ethyl acetate) to give 4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate (455 mg, 46%) as a brown oil: ESI MS m/z 426 [M+H]+.

reactant | 4-(3,4-dichlorophenyl)-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate | 2.3 mmol, 1.0 g | FC(S(=O)(=O)OC1=CC=C2C(CN(CC2=C1)C)C1=CC(=C(C=C1)Cl)Cl)(F)F | C17H14Cl2F3NO3S
reactant | N1,N1,N8,N8-tetramethylnaphthalene-1,8-diamine | 2.3 mmol, 493 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chlorethyl chloroformate | 6.9 mmol, 0.75 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
product | 4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate | 455 mg, 46% | FC(S(=O)(=O)OC1=CC=C2C(CNCC2=C1)C1=CC(=C(C=C1)Cl)Cl)(F)F | C16H12Cl2F3NO3S
